US06395737B1
d) [2-(R,S)-Benzylcarbamoyl-3-(4-carbamimidoyl-phenyl)-propionylamino]-(S)-cyclohexyl-acetic Acid Methyl Ester
{2-(R,S)-Benzylcarbamoyl-3-[4-(N-hydroxycarbamimidoyl)-phenyl]-propionylamino}-(S)-cyclohexyl-acetic acid methyl ester (7.6 g, 15.4 mmol) was hydrogenated in acetic acid with palladium/charcoal to give the desired product which was used without further purification in the next step. mp.: 101-104° C., MS m/z: 479 (M+H)+.

reactant | {2-(R,S)-Benzylcarbamoyl-3-[4-(N-hydroxycarbamimidoyl)-phenyl]-propionylamino}-(S)-cyclohexyl-acetic acid methyl ester | 15.4 mmol, 7.6 g | COC([C@H](C1CCCCC1)NC(C(CC1=CC=C(C=C1)C(NO)=N)C(NCC1=CC=CC=C1)=O)=O)=O | C27H34N4O5
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium/charcoal | [Pd] | Pd
product | [2-(R,S)-Benzylcarbamoyl-3-(4-carbamimidoyl-phenyl)-propionylamino]-(S)-cyclohexyl-acetic Acid Methyl Ester | COC([C@H](C1CCCCC1)NC(C(CC1=CC=C(C=C1)C(N)=N)C(NCC1=CC=CC=C1)=O)=O)=O | C27H34N4O4
